US06486190B1
This compound is prepared by a combination of Schemes 1 and 4. Commercially available 2,6-dinitrotoluene is converted to 2,3-diamino-6-nitrotoluene according to scheme 2. Reaction with cyanogen bromide affords 2-amino-4-methyl-5-nitrobenzimidazole. After protection of the amino group with a tert-butoxycarbonyl group, the compound is reduced by hydrogenation (palladium-on-carbon) and brominated (bromine, sodium acetate, acetic acid) to afford 5-amino-6-bromo-2-tert-butoxycarbonylamino-4-methylbenzimidazole. The formation of the 5-(2-imidazolinylamino) group is completed in the usual fashion and the tert-butoxycarbonyl group is cleaved by treatment with hydrobromic acid to afford 2-amino-6-bromo-5-(2-imidazolinylamino)-4-methylbenzimidazole.

reactant | 2,6-dinitrotoluene | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | 2,3-diamino-6-nitrotoluene | NC1=C(C(=CC=C1N)[N+](=O)[O-])C | C7H9N3O2
reactant | cyanogen bromide | N#CBr | CBrN
product | 2-amino-4-methyl-5-nitrobenzimidazole | NC=1NC2=C(N1)C=CC(=C2C)[N+](=O)[O-] | C8H8N4O2
